US07652008B2
(3R*,4S*)-7-chloro-4-[(2-hydroxypentyl)amino]-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol
Under nitrogen stream, 1,2-epoxypentane (71 μL, 0.682 mmol) was added to a solution of (3R*,4S*)-4-amino-7-chloro-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol (100 mg, 0.343 mmol) and lithium perchlorate (36 mg, 0.343 mmol) in dioxane (0.50 mL) at room temperature, and the resulting mixture was stirred at 70° C. for 25 hours. Upon the completion of the reaction, ethyl acetate was added thereto, the resulting reaction solution was washed with saturated aqueous sodium hydrogencarbonate solution and then with saturated aqueous sodium chloride solution, and then dried over magnesium sulfate and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=1/1) to obtain the aimed product (yield: 59%).

reactant | 1,2-epoxypentane | 0.682 mmol, 71 μL | O1CC1CCC | C5H10O
reactant | (3R*,4S*)-4-amino-7-chloro-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | 0.343 mmol, 100 mg | N[C@@H]1[C@H](C(OC2=CC=3C(=CC(=NC3C=C21)Cl)C)(C)C)O | C15H17ClN2O2
reactant | lithium perchlorate | 0.343 mmol, 36 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
product | (3R*,4S*)-7-chloro-4-[(2-hydroxypentyl)amino]-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | yield: 59% | ClC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@@H]([C@H]3NCC(CCC)O)O)(C)C | C20H27ClN2O3
